US04544743
The process disclosed in example 1 is used, except that the solvent is not distilled. 15.1 g of methyl sulfate (0.12 mole) are added to the solution of 3-methyl-1,3,5-oxadiazine-2,4,6-trione. The solvent is evaporated after 10 minutes of reaction at a temperature of 25° C. After washing with water and carbon tetrachloride, 14.6 g of 3,5-dimethyl-1,3,5-oxadiazine-2,4,6-trione (yield: 92%) which is a symmetrical disubstituted 1,3,5-oxadiazine trione are obtained.

reactant | methyl sulfate | 0.12 mole, 15.1 g | S(=O)(=O)(OC)[O-]
reactant | 3-methyl-1,3,5-oxadiazine-2,4,6-trione | CN1C(OC(NC1=O)=O)=O | C4H4N2O4
solvent | water | O | H2O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,5-dimethyl-1,3,5-oxadiazine-2,4,6-trione | 14.6 g, yield: 92% | CN1C(OC(N(C1=O)C)=O)=O | C5H6N2O4
